Data/regression/wb97xd3/fold_0/aam_pretrain_train.csv
AAM,ea
[O:1]=[C:2]1[C:3]([H:7])([H:8])[N:4]2[C:5]([H:9])([H:10])[C@@:6]12[H:11]>>[O-:1][C:6](=[C+:2][C:3]([N:4]=[C:5]([H:9])[H:10])([H:7])[H:8])[H:11],60.09454945728621
[C:1]([N:2]([C:3](=[O:4])[N:5]([C:6]([H:12])([H:13])[H:14])[C:7]([H:15])([H:16])[H:17])[H:11])([H:8])([H:9])[H:10]>>[C:1]([N:2]([C:3](=[O:4])[N+:5]([C-:6]([H:13])[H:14])=[C:7]([H:15])[H:16])[H:11])([H:8])([H:9])[H:10].[H:12][H:17],65.1229349892026
[C:1]1([H:7])([H:8])[C@:2]2([H:9])[C:3]([H:10])([H:11])[C:4]([H:12])([H:13])[C:5]([H:14])([H:15])[C@:6]12[H:16]>>[C:1]1([H:7])([H:8])[C:2]([C:6][H:16])([H:9])[C:3]([H:10])([H:11])[C:4]([H:12])([H:13])[C:5]1([H:14])[H:15],109.07542974496599
[C:1]([O:2][H:19])([H:8])([H:9])[H:10].[C:3]([C@@:4]1([H:13])[C:6]([H:17])([H:18])[O:7]1)([C:5]([H:14])([H:15])[H:16])([H:11])[H:12]>>[C:1]([O:2][C:3]([C@@:4]([C:5]([H:14])([H:15])[H:16])([C:6]([O:7][H:19])([H:17])[H:18])[H:13])([H:11])[H:12])([H:8])([H:9])[H:10],59.7367423197136
[C:1]([C:2]#[C:3][C:4]([C:5]([H:11])([H:12])[H:13])([C:6]([H:14])([H:15])[H:16])[O:7][H:17])([H:8])([H:9])[H:10]>>[C:1]([C:2][C@@:3]1([H:16])[C@:4]([C:5]([H:11])([H:12])[H:13])([O:7][H:17])[C:6]1([H:14])[H:15])([H:8])([H:9])[H:10],84.0723103997926
[C:1]([N:2]([C@@:3]([C:4]([H:12])([H:13])[H:14])([C:5]#[N:6])[H:11])[H:10])([H:7])([H:8])[H:9]>>[C:1]([N:2]([C+:3]=[C:5]=[N-:6])[H:10])([H:7])([H:8])[H:9].[C:4]([H:11])([H:12])([H:13])[H:14],59.389271885042
[C-:1]1([H:8])[C:2]([H:11])([H:12])[C@:3]([C:4]([H:14])([H:15])[H:16])([H:13])[N:5]([H:17])[C:6]([H:18])=[O+:7]1.[H:9][H:10]>>[C:1]([C:2]([C@@:3]([C:4]([H:14])([H:15])[H:16])([N:5]([C:6](=[O:7])[H:18])[H:17])[H:13])([H:11])[H:12])([H:8])([H:9])[H:10],21.207727606153
[N:1]#[C:2][C:3]([C:4]#[N:5])([H:6])[H:7]>>[N:1](=[C:2]=[C:3]([H:6])[H:7])[C:4]#[N:5],93.8075520730182
[H:14][H:16].[O:1]([C:2]([C:3]([C:4]([C:5](=[O:6])[H:15])([H:12])[H:13])([H:10])[H:11])([H:8])[H:9])[H:7]>>[O:1]([C:2]([C:3]([C:4]([C:5]([O:6][H:16])([H:14])[H:15])([H:12])[H:13])([H:10])[H:11])([H:8])[H:9])[H:7],70.59980781500414
[C:1]([O:2][C:3]([C:4]([H:11])([H:12])[H:13])([C:5]([H:14])([H:15])[H:16])[C:6]#[C:7][H:17])([H:8])([H:9])[H:10]>>[C:1]([C@:7]1([H:17])[O:2][C:3]([C:4]([H:11])([H:12])[H:13])([C:5]([H:14])([H:15])[H:16])[C:6]1)([H:8])([H:9])[H:10],108.328125084253
[C-:2]#[O+:3].[C-:4]#[O+:5].[C:1]([C:6]([H:10])([H:11])[H:12])([H:7])([H:8])[H:9]>>[C:1]([C:2](=[O:3])[C:4](=[O:5])[C:6]([H:10])([H:11])[H:12])([H:7])([H:8])[H:9],95.10965380514271
[O:1]=[C:2]([c:3]1[n:4][c:5]([H:9])[n:6][o:7]1)[H:8]>>[C:5](#[N:6])[H:9].[O:1]=[C:2]([N:4]=[C:3]=[O:7])[H:8],45.9164976490845
[C:1]([C@:2]1([C:4]([C:3][H:10])([H:12])[H:13])[C:5]([H:11])([H:14])[O:6]1)([H:7])([H:8])[H:9]>>[C:1]([C:2]1([C:5](=[O:6])[H:14])[C:3]([H:10])([H:11])[C:4]1([H:12])[H:13])([H:7])([H:8])[H:9],42.35263576056671
[N:1]([c:2]1[c:3]([H:10])[n:4]([H:11])[c:5]([O:6][H:12])[n:7]1)([H:8])[H:9]>>[N:1]([C:2]1=[C:3]([H:10])[N:7]1/[C:5](=[N:4]/[H:11])[O:6][H:12])([H:8])[H:9],80.5232634510002
[N:1]#[C:2][N-:6][N+:7]#[C:3][C:4](=[O:5])[H:8]>>[N:1]#[C:2][C:3](=[C:4]([O-:5])[H:8])[N+:7]#[N:6],55.16913702469012
[C:1]([C:2]([C:3]([H:8])([H:9])[H:10])=[O:4])([H:5])([H:6])[H:7]>>[C:1]([C@@:2]1([H:8])[C:3]([H:9])([H:10])[O:4]1)([H:5])([H:6])[H:7],89.3938965781515
[C:1]([N:2](/[C:3](=[N:4]\[H:12])[C:5](=[O:6])[C:7]([H:13])([H:14])[H:15])[H:11])([H:8])([H:9])[H:10]>>[C:1]([N:2]([C:7]([H:13])([H:14])[H:15])[H:11])([H:8])([H:9])[H:10].[C:3](=[N:4][H:12])=[C:5]=[O:6],102.615912761283
[C:1]([N:2]([N:7]([C@:6]1([H:13])[C:3](=[O:4])[N:5]1[H:12])[H:14])[H:11])([H:8])([H:9])[H:10]>>[C:1]([N:2]([C:3](=[O:4])[N:5](/[C:6](=[N:7]/[H:14])[H:13])[H:12])[H:11])([H:8])([H:9])[H:10],40.68774140521151
[O:1]([C:2](=[C:3]([H:7])[H:8])[H:6])[N+:5]#[C-:4]>>[O:1]=[C:2]([C:3]([C:4]#[N:5])([H:7])[H:8])[H:6],24.4387956654474
[C:1]([C:2](/[C:3](=[C:4](/[C:5]([H:16])([H:17])[H:18])[H:15])[C:6]#[N:7])([H:11])[H:12])([H:8])([H:9])[H:10].[H:13][H:14]>>[C:1]([C:2]([C:3]([C:4]([C:5]([H:16])([H:17])[H:18])([H:14])[H:15])([C:6]#[N:7])[H:13])([H:11])[H:12])([H:8])([H:9])[H:10],77.4049349776659
[O:1]([C:2]([C:3]([C:4]1=[C:6]([H:13])[C:5]1([H:11])[H:12])=[O:7])([H:9])[H:10])[H:8]>>[O:1]([C:2]([C:3]#[C:4][C:5]([C:6](=[O:7])[H:13])([H:11])[H:12])([H:9])[H:10])[H:8],67.01419344304679
[N:1](=[C:2]1/[C:3]([H:8])([H:9])[O:4][C:5]([H:10])([H:11])[O:6]1)\[H:7]>>[C-:3]([O+:4]=[C:5]([H:10])[H:11])([H:8])[H:9].[N:1](=[C:2]=[O:6])[H:7],50.4815222944926
[C-:4]#[O+:5].[N-:1]([C+:2]([O-:3])[C+:6]=[N:7][H:9])[H:8]>>[N:1](=[C:2](\[O:3][C:4](=[O:5])[H:9])[C:6]#[N:7])\[H:8],5.863649163207398
[C:1]([C:2]([C:3]([H:11])([H:12])[H:13])([N:4]([C:5](=[O:6])[H:15])[H:14])[H:10])([H:7])([H:8])[H:9]>>[C:1](=[C:2]([C:3]([H:11])([H:12])[H:13])/[N:4]=[C:5](\[O:6][H:10])[H:15])([H:7])[H:9].[H:8][H:14],90.7446550460976
[C:1]1([H:8])([H:10])[C:2]([H:11])([H:12])[N:3]1[H:13].[C:4](=[O:5])([O:6][C:7]([H:14])([H:15])[H:16])[H:9]>>[C:1]([C:2]([N:3]([C:4](=[O:5])[O:6][C:7]([H:14])([H:15])[H:16])[H:13])([H:11])[H:12])([H:8])([H:9])[H:10],63.331261407176
